US08304419B2
Step C: 4-Chloro-2-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carbaldehyde
nBuLi (1.3 mL, 2.05 mmol, 1.57 M in hexane) was added dropwise to a solution of 4,5-dichloro-2-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole (842 mg, 2.05 mmol) in THF (30 mL) at −78° C. under N2. The mixture was stirred for 30 min and DMF (1.0 mL) was then added dropwise. The mixture was stirred for 20 min and then allowed warm up to room temperature and stirred for 20 min. Quenched by aqueous NH4Cl and extracted with EtOAc and the organic layer was dried over sodium sulfate and concentrated.

reactant | nBuLi | 2.05 mmol, 1.57 M, 1.3 mL | [Li]CCCC
reactant | 4,5-dichloro-2-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole | 2.05 mmol, 842 mg | ClC=1N=C(N(C1Cl)COCC[Si](C)(C)C)CO[Si](C)(C)C(C)(C)C | C16H32Cl2N2O2Si2
reactant | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 4-Chloro-2-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carbaldehyde | ClC=1N=C(N(C1C=O)COCC[Si](C)(C)C)CO[Si](C)(C)C(C)(C)C | C17H33ClN2O3Si2
